US08895035B2
Production of 1-(2-isopropoxyimino-2-thiocarbamoyl-1-methoxyiminoethyl)-1H-1,2,4-triazole (present compound No. II-224)
0.77 g (1.9 mmol) of Lawesson's reagent was added, at room temperature, to a tetrahydrofuran (8 ml) solution containing 0.40 g (1.6 mmol) of 1-(2-carbamoyl-2-isopropoxyimino-1-methoxyiminoethyl)-1H-1,2,4-triazole, followed by stirring at 40° C. for 2 hours and then at 60° C. for 3 hours. The reaction mixture was cooled to room temperature. Thereto was added diisopropyl ether. The mixture was washed with water and an aqueous saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off. The resulting residue was purified by silica gel column chromatography (elutant:ethyl acetate/hexane=1/2) to obtain 0.25 g (yield: 58%) of a title compound as a yellow powder.

reactant | Lawesson's reagent | 1.9 mmol, 0.77 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | 1-(2-carbamoyl-2-isopropoxyimino-1-methoxyiminoethyl)-1H-1,2,4-triazole | 1.6 mmol, 0.40 g | C(N)(=O)C(C(=NOC)N1N=CN=C1)=NOC(C)C | C9H14N6O3
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 1-(2-isopropoxyimino-2-thiocarbamoyl-1-methoxyiminoethyl)-1H-1,2,4-triazole | 0.25 g, yield: 58% | C(C)(C)ON=C(C(=NOC)N1N=CN=C1)C(N)=S | C9H14N6O2S
